US09085534B2
3-[(1-benzofuran-3-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 8% yield from (1-benzofuran-3-yl)methylamine hydrochloride and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 5. 1H NMR (400 MHz, DMSO-d6): δ 13.39 (br s, 1H), 8.33 (s, 1H), 7.97 (s, 1H), 7.77 (d, 1H, J=5.0 Hz), 7.68 (br s, 1H), 7.57 (d, 1H, J=7.6 Hz), 7.48-7.52 (m, 2H), 7.17-7.28 (m, 2H), 4.64 (s, 2H). [M+H] calc'd for C15H12N2O3, 267; found 267.

reactant | (1-benzofuran-3-yl)methylamine hydrochloride | Cl.O1C=C(C2=C1C=CC=C2)CN
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(1-benzofuran-3-ylmethyl)amino]pyridine-4-carboxylic acid | 8% yield | O1C=C(C2=C1C=CC=C2)CNC=2C=NC=CC2C(=O)O | C15H12N2O3
